US04337253
Following the procedure described in Example A-16 but using in place of methyl 4-cyano-4-(4-morpholinyl)-4-(4-pyridinyl)-2-methylbutanoate a molar equivalent quantity of methyl 2-methyl-4-oxo-4-(4-pyridinyl)butanoate, it is contemplated that there can be obtained 4,5-dihydro-2,4-dimethyl-6-(4-pyridinyl)-3(2H)-pyridazinone. Also, this same compound can be obtained following the procedure described in Example A-1 but using in place of 4-oxo-4-(4-pyridinyl)butanenitrile a molar equivalent quantity of 2-methyl-4-oxo-4-(4-pyridinyl)butanenitrile.

reactant | methyl 4-cyano-4-(4-morpholinyl)-4-(4-pyridinyl)-2-methylbutanoate | C(#N)C(CC(C(=O)OC)C)(C1=CC=NC=C1)N1CCOCC1 | C16H21N3O3
reactant | methyl 2-methyl-4-oxo-4-(4-pyridinyl)butanoate | CC(C(=O)OC)CC(C1=CC=NC=C1)=O | C11H13NO3
product | 4,5-dihydro-2,4-dimethyl-6-(4-pyridinyl)-3(2H)-pyridazinone | CN1N=C(CC(C1=O)C)C1=CC=NC=C1 | C11H13N3O
